US05446010
Preparation of 2-methylbenzanilide
A three necked flack having a capacity of 100 ml, and equipped with a dropping funnel, a thermometer and a drying tube packed with calcium chloride, was charged with 11.2 g of aniline and 30 ml of pyridine. While stirring the solution in the flack by using a magnetic stirrer, 18.5 g of o-toluoyl chloride was added dropwise from the dropping funnel to the solution in such a manner that the temperature of the resultant reaction mixture did not exceed a level of 40° C. Simultaneously with the start of the dropwise addition, an exothermic reaction occurred, and a solid substance was gradually precipitated. Finally, the entire reaction system was solidified so that the stirring became impossible. The reactionwas completed after 2 hours from the start thereof. To the reaction system,an acid water containing hydrochloric acid was added, and then the solid product was pulverized and filtered to collect the reaction product. The reaction product was recrystallized by using a mixed solvent consisting ofethyl alcohol and water. White crystals were obtained in an amount of 24.1 g, and had a melting temperature of 127° C. to 129° C. An NMR measurement, a mass spectrometric analysis and an IR measurement identified that the resultant crystals consisted of the aimed compound.

reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
reactant | aniline | 11.2 g | NC1=CC=CC=C1 | C6H7N
reactant | o-toluoyl chloride | 18.5 g | C=1(C(=CC=CC1)C(=O)Cl)C | C8H7ClO
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 2-methylbenzanilide | CC1=C(C(=O)NC2=CC=CC=C2)C=CC=C1 | C14H13NO
